US07576221B2
Step C: Synthesis of tert-butyl (S)-4-((R)-1-(1-benzyl-4-(2,5-difluorophenyl)-1H-imidazol-2-yl)-2,2-dimethylpropylamino)-1-methoxybutan-2-ylcarbamate
To (R)-1-(1-benzyl-4-(2,5-difluorophenyl)-1H-imidazol-2-yl)-2,2-dimethylpropan-1-amine (1 eq) in dichloromethane was added tert-butyl (S)-1-formyl-3-methoxypropan-2-ylcarbamate (1.5 eq) and acetic acid (1 eq). The reaction mixture was stirred at room temperature for 1 h. Sodium triacetoxy borohydride (2 eq) was added at 0° C. The reaction mixture was warmed to room temperature and stirred overnight. Solvent was concentrated and crude was partitioned between ethyl acetate and satd. sodium bicarbonate. The organic layer was washed with water, brine and dried over sodium sulfate. Purification by silica gel chromatography (25% EtOAc/Hexane) provide pure product as a white foamy solid.

reactant | (R)-1-(1-benzyl-4-(2,5-difluorophenyl)-1H-imidazol-2-yl)-2,2-dimethylpropan-1-amine | 1 eq | C(C1=CC=CC=C1)N1C(=NC(=C1)C1=C(C=CC(=C1)F)F)[C@@H](C(C)(C)C)N | C21H23F2N3
reactant | tert-butyl (S)-1-formyl-3-methoxypropan-2-ylcarbamate | 1.5 eq | C(=O)C[C@@H](COC)NC(OC(C)(C)C)=O | C10H19NO4
reactant | acetic acid | 1 eq | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxy borohydride | 2 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-butyl (S)-4-((R)-1-(1-benzyl-4-(2,5-difluorophenyl)-1H-imidazol-2-yl)-2,2-dimethylpropylamino)-1-methoxybutan-2-ylcarbamate | C(C1=CC=CC=C1)N1C(=NC(=C1)C1=C(C=CC(=C1)F)F)[C@@H](C(C)(C)C)NCC[C@@H](COC)NC(OC(C)(C)C)=O | C31H42F2N4O3
